US07700784B2
A mixture of [2′-(1H-tetrazol-5-yl)-biphenyl-4-yl]-methanol (1.03 g; 4.0 mmol), triethylamine (2.80 mL; 20 mmol) and dimethylsulfoxide (2 mL) is cooled to 12° C., and a solution of sulfur trioxide pyridine complex (1.27 g; 8.0 mmol) in dimethylsulfoxide (6.4 mL) is added over 10 minutes. The resulting clear solution is stirred at room temperature for almost 48 hours during which time more triethylamine (0.28 mL; 2.0 mmol) is added. The mixture is diluted with ethyl acetate (10 mL), cooled to 0 to 5° C. and slowly treated with a 2 M aqueous hydrochloric acid solution (15 mL). The aqueous layer is separated and extracted with ethyl acetate (10 mL). The combined organic layers are diluted with ethyl acetate (10 mL), washed with a 2 M aqueous hydrochloric acid solution (15 mL), twice with a 1 M aqueous hydrochloric acid solution (10 mL) and with a 10% aqueous solution of sodium chloride (10 mL). The organic extract is concentrated at 45° C. under reduced pressure to a volume of about 4 to 5 mL. The resulting suspension is stirred at room temperature for 45 minutes and at 0 to 5° C. for one hour before it is filtered. The solids are washed with cold ethyl acetate (2 mL) and dried at 45° C. under reduced pressure to give 2′-(1H-tetrazol-5-yl)-biphenyl-4-carbaldehyde as white, crystalline solid. A second crop can be obtained by concentrating the mother liquor to a volume of about 1 mL and filtering the solid formed.

reactant | [2′-(1H-tetrazol-5-yl)-biphenyl-4-yl]-methanol | 4.0 mmol, 1.03 g | N1N=NN=C1C1=C(C=CC=C1)C1=CC=C(C=C1)CO | C14H12N4O
reactant | triethylamine | 20 mmol, 2.80 mL | C(C)N(CC)CC | C6H15N
reactant | triethylamine | 2.0 mmol, 0.28 mL | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | 2 M, 15 mL | Cl | ClH
solvent | dimethylsulfoxide | 6.4 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
solvent | dimethylsulfoxide | 2 mL | CS(=O)C | C2H6OS
product | 2′-(1H-tetrazol-5-yl)-biphenyl-4-carbaldehyde | N1N=NN=C1C1=C(C=CC=C1)C1=CC=C(C=C1)C=O | C14H10N4O
